US08389507B2
a) (R)-2-{[Ethyl-(3-phenoxy-phenyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 3-phenoxyaniline (0.3 g, 1.62 mmol) in 1,2-dichloroethane (4 ml) were added N-(tert-butoxycarbonyl)-D-prolinal (0.322 g, 1.62 mmol) and sodium triacetoxyborohydride (0.480 g, 2.26 mmol). The resulting suspension was stirred overnight at 50° C. The mixture was then cooled to room temperature, water (8 ml) was added and extracted with ethyl acetate (3×20 ml). The combined organic layers were dried with magnesium sulphate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (SiO2: heptane/ethyl acetate=70:30) to yield a light yellow oil that was dissolved in methanol (8 ml). Acetaldehyde (0.134 g, 3.05 mmol), zinc chloride (0.333 g, 2.44 mmol) and sodium cyanoborohydride (0.115 g, 1.83 mmol) were added and the mixture was stirred overnight at 40° C. Saturated ammonium acetate solution (10 ml) was added and extracted with ethyl acetate (3×30 ml). The combined organic layers were dried with magnesium sulphate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (SiO2: heptane/ethyl acetate=70:30) to yield 0.43 g (67%) of a colourless oil; MS (ISP): 397.0 ((M+H)+.).

reactant | 3-phenoxyaniline | 1.62 mmol, 0.3 g | O(C1=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11NO
reactant | N-(tert-butoxycarbonyl)-D-prolinal | 1.62 mmol, 0.322 g | C(C)(C)(C)OC(=O)N1[C@@H](C=O)CCC1 | C10H17NO3
reactant | sodium triacetoxyborohydride | 2.26 mmol, 0.480 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Acetaldehyde | 3.05 mmol, 0.134 g | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 1.83 mmol, 0.115 g | C(#N)[BH3-].[Na+]
reactant | ammonium acetate | 10 ml | C(C)(=O)[O-].[NH4+]
solvent | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
solvent | methanol | 8 ml | CO | CH4O
catalyst | zinc chloride | 2.44 mmol, 0.333 g | [Cl-].[Zn+2].[Cl-]
solvent | water | 8 ml | O | H2O
product | (R)-2-{[Ethyl-(3-phenoxy-phenyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.43 g, 67% | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CN(C1=CC(=CC=C1)OC1=CC=CC=C1)CC | C24H32N2O3
